US07465815B2
3-(4-Formylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran
Using 3-(4-bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran obtained in Reference Example 236, the title compound was synthesized in the same manner as in Reference Example 245. Yield 73%. Melting point: 87-88° C. (methanol).

reactant | 3-(4-bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran | BrC1=CC=C(C=C1)C1COC2=C1C(=CC(=C2C)C)C | C17H17BrO
reactant | methanol | CO | CH4O
product | 3-(4-Formylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran | Yield 73% | C(=O)C1=CC=C(C=C1)C1COC2=C1C(=CC(=C2C)C)C | C18H18O2
